US09340505B2
1-(3-(4,5-dihydro-1H-imidazol-2-yl)phenyl)-3-(4-ethoxyphenyl)urea hydrochloride (18)
A mixture of 3-(4,5-dihydro-1H-imidazol-2-yl) aniline dihydrochloride monohydrate (stored with 4 A molecular sieves, 48 mg, 0.19 mmol) and 4-ethoxyphenyl isocyanate (33 mg, 0.20 mmol) in dimethylformamide (2 ml) was stirred at room temperature overnight. After removal of the solvent, water (2 ml) was added and the resulting precipitate was collected (18 mg, 64% yield) by filtration. 1H NMR (600 MHz, DMSO-d6) δ 10.5 (br s, 1H), 9.12 (br s, 1H), 8.11 (s, 1H), 7.68 (d, 1H, J=8.4 Hz), 7.52 (t, 1H, 8.4 Hz), 7.47 (d, 1H, J=7.2 Hz), 7.35 (d, 2H, J=7.2 Hz), 6.86 (d, 2H, J=7.2 Hz), 3.98 (s, 4H). MS: m/z Calcd 324.4 Found MH+ 325.5

reactant | 3-(4,5-dihydro-1H-imidazol-2-yl) aniline dihydrochloride monohydrate | O.Cl.Cl.N1C(=NCC1)C=1C=C(N)C=CC1
reactant | 4-ethoxyphenyl isocyanate | 0.20 mmol, 33 mg | C(C)OC1=CC=C(C=C1)N=C=O | C9H9NO2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-(3-(4,5-dihydro-1H-imidazol-2-yl)phenyl)-3-(4-ethoxyphenyl)urea hydrochloride | 64% yield | Cl.N1C(=NCC1)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OCC | InChI=1S/C18H20N4O2.ClH/c1-2-24-16-8-6-14(7-9-16)21-18(23)22-15-5-3-4-13(12-15)17-19-10-11-20-17;/h3-9,12H,2,10-11H2,1H3,(H,19,20)(H2,21,22,23);1H
